US08470859B2
5-chloro-1-(2,5-difluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 160, 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide was reacted with 1-(2,5-difluorophenyl)methanamine to give the title compound.

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-(2,5-difluorophenyl)methanamine | FC1=C(C=C(C=C1)F)CN | C7H7F2N
product | 5-chloro-1-(2,5-difluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)F)F)=N)C(=O)N | InChI=1S/C13H10ClF2N3O.ClH/c14-8-4-10(13(18)20)12(17)19(6-8)5-7-3-9(15)1-2-11(7)16;/h1-4,6,17H,5H2,(H2,18,20);1H
